US04658037
N-Benzoyl-3-(2-thenoyl)-2-oxindole-1-carboxamide
To a stirred solution of 486 mg (2.0 mmole) of 3-(2-thenoyl)-2-oxindole and 445 mg (4.4 mmole) of triethylamine in 5 ml of dimethyl sulfoxide was added 324 mg (2.2 mmole) of benzoyl isocyanate. Stirring was continued for 1 hour, and then the mixture was poured into a mixture of 50 ml of water and 1.7 ml of 3N hydrochloric acid. The resulting mixture was cooled in an ice-bath and the solid was removed by filtration. The solid was recrystallized from ca. 30 ml of 2:1 ethanol:water to give 190 mg of the title compound as fluffy, yellow crystals, mp 165°-166° C. (dec).

reactant | 3-(2-thenoyl)-2-oxindole | 2.0 mmole, 486 mg | C1(=CC=CS1)C(=O)C1C(NC2=CC=CC=C12)=O | C13H9NO2S
reactant | triethylamine | 4.4 mmole, 445 mg | C(C)N(CC)CC | C6H15N
reactant | benzoyl isocyanate | 2.2 mmole, 324 mg | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
reactant | hydrochloric acid | 3N, 1.7 ml | Cl | ClH
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | water | 50 ml | O | H2O
product | N-Benzoyl-3-(2-thenoyl)-2-oxindole-1-carboxamide | 190 mg | C(C1=CC=CC=C1)(=O)NC(=O)N1C(C(C2=CC=CC=C12)C(C1=CC=CS1)=O)=O | C21H14N2O4S
